US04962109
(i) diethyl (RS)-formylsuccinate
Ethanol (20 cm3) was added portionwise to a suspension of finely divided sodium (10.0 g) in dry toluene (100 cm3). On completion of the addition the mixture was heated for 3.5 hours at 80° C. To the resulting yellow suspension, cooled to 20° C., was added dropwise, over a period of 1 hour, a mixture of diethyl succinate (70.0 g) and ethyl formate (35.0 g), whilst the temperature of the mixture was maintained in the range 20° to 30° C. The mixture was kept at the ambient temperature for 16 hours after which water (100 cm3) was added carefully.

reactant | Ethanol | 20 cm3 | C(C)O | C2H6O
reactant | sodium | 10.0 g | [Na] | Na
reactant | diethyl succinate | 70.0 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | ethyl formate | 35.0 g | C(=O)OCC | C3H6O2
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 cm3 | O | H2O
product | diethyl (RS)-formylsuccinate | C(=O)C(C(=O)OCC)CC(=O)OCC | C9H14O5
